US07148229B2
Benzo[1,2,5]thiadiazole-4-sulfonic acid {4-[3-butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide
Prepared from 8-(4-amino-benzyl)-3-butyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione and benzo[1,2,5]thiadiazole-4-sulfonyl chloride. Purity (ELSD, based on MW=619.7)=80%.

reactant | 8-(4-amino-benzyl)-3-butyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione | NC1=CC=C(CC2=NC=3N(C(N(C(C3N2)=O)CC2=C(C=CC=C2)F)=O)CCCC)C=C1 | C23H24FN5O2
reactant | benzo[1,2,5]thiadiazole-4-sulfonyl chloride | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)Cl | C6H3ClN2O2S2
product | Benzo[1,2,5]thiadiazole-4-sulfonic acid {4-[3-butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O)CC2=C(C=CC=C2)F)=O | C29H26FN7O4S2
